Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___: Left heart catheterization and coronary angiography
 
History of Present Illness:
Mr. ___ is a ___ year old man with a H/O CAD with NSTEMI in 
___ now s/p DES to LAD and distal RCA in ___ who presented 
with worsening exertional chest pain.

The patient reports that since his PCI in ___, he 
has never returned to his previous baseline of exercise 
tolerance. He 'took it easy' for the first month or so. Then he 
began to exercise again. He is able to lift weights but when he 
walks or uses a machine such as the stair-stepper, he 
experiences chest pain. The chest pain is sharp pain localized 
to the right side of the chest in the mid-clavicular line. It 
radiates circumferentially from this site and down the right arm 
and in the shoulder blades. He describes the symptoms most 
clearly as they occur when he is walking. He starts to walk and 
when he begins to exert himself, either by walking up a hill or 
by walking for about five minutes, he develops the pain as 
described above. The pain previously would last for twenty 
minutes while he continues to walk then go away (spontaneously, 
again, while the patient continued to exercise) and he was able 
to continue exercising. Over the past ___ months, he has needed 
to stop and rest for the pain to go away. It dissipates after 
___ minutes of rest. This pain feels the same as the pain 
experienced last ___. He has tried TNG once but it did not 
help and has not tried again. He reports compliance with aspirin 
and ticagrelor (as well as his other medications). He feels 
shortness of breath with the chest pain as well. He denies 
orthopnea or paroxysmal nocturnal. He denies fevers, chills, 
edema, weight changes.

He called the nurse at his ___ office who recommended he present 
to the ___ ED. In the ED initial vitals were: T 97.8 HR 77 BP 
138/78 RR 16 SaO2 98% on RA. EKG showed NSR, normal axis, normal 
intervals, new 0.___epression in lateral leads as compared 
with EKG from ___. Labs/studies notable for: Troponin-T 
normal twice, Cr 1. Patient was given aspirin 243 mg po. The 
cardiology fellow was consulted and recommended admission for 
unstable angina.
 
Past Medical History:
- CAD s/p DES to LAD and RCA in ___
- OSA
- Hyperlipidemia
- Depression/anxiety
 
Social History:
___
Family History:
Father died in his ___ due to lung cancer complication. Mother 
alive with hyperlipidemia and DM. Sister with CAD and s/p stent 
in her ___.
 
Physical Exam:
On admission
GENERAL APPEARANCE: young white man in no acute distress, 
pleasant, alert and oriented x 3.
VS: 24 HR Data (last updated ___ @ ___ Temp: 97.6 (Tm 
97.6), BP: 132/68, HR: 69, RR: 18, O2 sat: 94%, O2 delivery: RA
HEENT: NC/AT. Sclera are anicteric. Mucous membranes moist.
NECK: supple, JVP does not appear elevated.
CARDIOVASCULAR: normal S1 S2, regular rate and rhythm, no S3, no 
rubs, no murmurs.
RESPIRATORY: clear to auscultation bilaterally--no wheezes, 
rhonchi, rales.
GASTROINTESTINAL: non-tender, no hepatosplenomegaly, no masses 
palpated.
NEUROLOGIC: non-focal exam. CN II-XII intact with PERRL, EOMI, 
face symmetric.
EXTREMITIES: no rashes, warm and well perfused, no edema.
PERIPHERAL PULSES: 2+ pulses in the femoral, DP, ___, and radial.
Auscultation of the femoral region with no bruits.

At discharge
GENERAL APPEARANCE: Well appearing man, sitting in bed in no 
acute distress
VS: ___ 1146 Temp: 97.8 PO BP: 116/66 L Lying HR: 66 RR: 18 
O2 sat: 97% O2 delivery: A
HEENT: Mucous membrane moist, atraumtic, normocephalic
NECK: supple, JVP does not appear elevated.
CARDIOVASCULAR: Normal rate, regular rhythm. No murmurs, rubs, 
gallops.
RESPIRATORY: Lungs clear to auscultation bilaterally--no wheezes 
or crackles.
GASTROINTESTINAL: Non-tender, not distended. Soft. Normal bowel 
sounds.
EXTREM: Pulses 2+, no peripheral edema
NEUROLOGIC: Alert & oriented x 3. No focal neurologic defects.
 
Pertinent Results:
___ 02:53PM BLOOD WBC-4.8 RBC-5.10 Hgb-15.3 Hct-44.1 MCV-87 
MCH-30.0 MCHC-34.7 RDW-11.8 RDWSD-37.0 Plt ___
___ 02:53PM BLOOD Neuts-46.3 ___ Monos-10.0 Eos-6.2 
Baso-1.2* Im ___ AbsNeut-2.23 AbsLymp-1.74 AbsMono-0.48 
AbsEos-0.30 AbsBaso-0.06

___ 02:53PM BLOOD Glucose-102* UreaN-15 Creat-1.0 Na-140 
K-4.1 Cl-103 HCO3-26 AnGap-11
___ 08:25AM BLOOD Calcium-9.6 Phos-2.8 Mg-2.1
___ 10:00PM BLOOD %HbA1c-5.8 eAG-120

___ 02:53PM BLOOD cTropnT-<0.01
___ 09:15PM BLOOD CK-MB-3 cTropnT-<0.01

CXR ___
There is no focal consolidation, pleural effusion, or 
pneumothorax. The cardiomediastinal silhouette is within normal 
limits. Posterior spinal fusion hardware is partially visualized 
in the cervical spine. There is no acute osseous abnormality. 
IMPRESSION: No acute intrathoracic process. 

Cardiac catheterization: ___
LVEDP 2-3 mm Hg.
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems. 
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 30% stenosis in the 
proximal segment. The Septal Perforator, arising from the mid 
segment, is a small caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. 
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. The SinoAtrial, arising from the 
proximal segment, is a small caliber vessel. The Right 
Posterolateral Artery, arising from the distal segment, is a 
medium caliber vessel. The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber vessel.
Interventional Details: FFR of 1.0 in LAD so med mgt
 
DISCHARGE LABS
___ 08:25AM BLOOD WBC-4.5 RBC-5.11 Hgb-15.4 Hct-44.4 MCV-87 
MCH-30.1 MCHC-34.7 RDW-11.8 RDWSD-37.5 Plt ___
___ 08:25AM BLOOD ___ PTT-34.5 ___
___ 08:20AM BLOOD Glucose-92 UreaN-15 Creat-1.1 Na-141 
K-4.6 Cl-101 HCO3-27 AnGap-13
___ 08:20AM BLOOD Calcium-9.6 Phos-2.8 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with H/O hyperlipidemia, FHx 
premature CAD S/P NSTEMI ___ treated with DES to LAD (20 mm 
Promus Premier postdilated with 3.25 mm NC) and DES to distal 
RCA (20 mm Promus Premier postdilated with 3.5 mm NC) who 
presented with worsening exertional chest pain, unchanged ECG 
and negative troponin-T X 2 concerning for biomarker unstable 
angina. Cardiac catheterization ___ showed low filling 
pressures with a 30% proximal LAD plaque that was no 
flow-limiting by pressure wire assessment. Small vessel ischemia 
could not be excluded. He was discharged home with addition of 
amlodipine and recommendation to use sl TNG prior to exercise or 
physical exertion. 

CHRONIC ISSUES: 
# Depression/Anxiety: Continued Cymbalta

# GERD: Continued omeprazole

# OSA: Continued CPAP at night

TRANSITIONAL ISSUES:
====================
- Depending on if patient finds relief with SL nitroglycerin 
before exercise, could transition to long acting nitrate 
preparation in the outpatient setting
- Patient would like to see a nutritionist to discuss healthy 
eating habits.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. TiCAGRELOR 90 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. DULoxetine 60 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY
 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
2.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually q5min Disp 
#*14 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  DULoxetine 60 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  TiCAGRELOR 90 mg PO BID
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Biomarker negative unstable angina
-Coronary artery disease with prior myocardial infarction and 
stenting, but no angiographically apparent flow-limiting disease 
identified during this admission
-Hyperlipidemia
-Gastroesophageal reflux disease
-Sleep apnea
-Depression
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest pain 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You had a cardiac cathetertization. This is a procedure that 
looks at the blood vessels in the heart to see if any are 
blocked. It showed that your vessels had good blood flow and 
your previous stent is open.
- Your bloodwork showed that you did not have any damage to your 
heart muscle

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please follow up with your primary care doctor and 
cardiologist. We have made appointments for you.
- Please take all your medications as prescribed.
- We are giving you a new prescription for sublingual 
nitroglycerin. For best effect, we recommend keeping the bottle 
tightly closed and not keeping it in direct sunlight. Please 
ensure you don't use the medicine once it has expired, as it 
will not work. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team
 
Followup Instructions:
___